US05990263
b) Ethylidene bis[16-(5-chlorocarbonylpentanoyloxy)-hexadecanoate]
In a three-necked round bottomed flask equipped with a reflux condenser, a glass gas inlet tube and a pressure equalizing dropping funnel was placed freshly distilled adipoyl chloride (2.60 ml, 17.50 mmol) dissolved in absolute chloroform (15 ml). The temperature was raised to ca. 50° C. and under a gentle stream of nitrogen through the solution, a solution of ethylidene bis(16-hydroxy-hexadecanoate) (1.0 g, 1.75 mmol) in absolute chloroform (30 ml) was added dropwise and left at this temperature a further 3 hours after addition. The mixture was then cooled to room temperature and quickly transferred into a 50 ml round bottomed flask equipped for distillation under reduced pressure. Chloroform was first distilled off at normal pressure, then oil-pump vacuum was established and excess adipoyl chloride distilled off at ca. 75° C., 5 mbar pressure, leaving the residual title compound (1.56 g).

reactant | adipoyl chloride | 17.50 mmol, 2.60 ml | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | ethylidene bis(16-hydroxy-hexadecanoate) | 1.75 mmol, 1.0 g | OCCCCCCCCCCCCCCCC(=O)OC(C)OC(CCCCCCCCCCCCCCCO)=O | C34H66O6
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethylidene bis[16-(5-chlorocarbonylpentanoyloxy)-hexadecanoate] | 1.56 g | ClC(=O)CCCCC(=O)OCCCCCCCCCCCCCCCC(=O)OC(C)OC(CCCCCCCCCCCCCCCOC(CCCCC(=O)Cl)=O)=O | C46H80Cl2O10
